US05073544
Example 1 was repeated using piperazine and two equivalents of dodecanoyl chloride to obtain 1,4-bis(1-oxododecyl)-piperazine.

reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | dodecanoyl chloride | two equivalents | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
product | 1,4-bis(1-oxododecyl)-piperazine | O=C(CCCCCCCCCCC)N1CCN(CC1)C(CCCCCCCCCCC)=O | C28H54N2O2
